US05328924
B. 3-(3-(6,6,6-Trifluorohexyloxy-1,2,5-thiadiazol-4-yl)-1-methylpyridinium iodide
A solution of methyl iodide (852 mg, 6.0 mmol) and 3-(3(6,6,6-trifluorohexyloxy-1,2,5-thiadiazol-4-yl)-pyridine (630 mg, 2.0 mmol) in acetone (25 ml) was refluxed for 7 h. The solution was evaporated and the residue was used directly in the next step.

reactant | methyl iodide | 6.0 mmol, 852 mg | CI | CH3I
reactant | 3(6,6,6-trifluorohexyloxy-1,2,5-thiadiazol-4-yl)-pyridine | 2.0 mmol, 630 mg | FC(CCCCCOC1=NSN=C1C=1C=NC=CC1)(F)F | C13H14F3N3OS
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 3-(6,6,6-Trifluorohexyloxy-1,2,5-thiadiazol-4-yl)-1-methylpyridinium iodide | [I-].FC(CCCCCOC1=NSN=C1C=1C=[N+](C=CC1)C)(F)F | InChI=1S/C14H17F3N3OS.HI/c1-20-8-5-6-11(10-20)12-13(19-22-18-12)21-9-4-2-3-7-14(15,16)17;/h5-6,8,10H,2-4,7,9H2,1H3;1H/q+1;/p-1
